US09085583B2
A solution of (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (70 mg, 0.15 mmol) in ammonium hydroxide (5 mL) was stirred at 150° C. for 30 minutes under microwave (pressure: 17.2 bar, equipment power: 150 W). The mixture was concentrated in vacuo and purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to afford (R)-2-amino-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (25 mg, 38%). LRMS (M+H+) m/z: calcd 430.21. found 430. HPLC purity (214 nm): 93%. 1H NMR (300 MHz, CD3OD): δ 8.57 (s, 1H), 7.34-7.19 (m, 5H), 6.19-6.17 (m, 1H), 6.10 (s, 1H), 4.47 (s, 2H), 2.33 (s, 3H), 2.30 (s, 3H), 2.23 (s, 3H), 1.99 (d, J=7.2 Hz, 3H).

reactant | (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 0.15 mmol, 70 mg | ClC=1N=CC2=C(N1)N(C(=C2C(=O)NCC=2C(=NC(=CC2C)C)O)C)[C@H](C)C2=CC=CC=C2 | C24H24ClN5O2
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
product | (R)-2-amino-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 25 mg, 38% | NC=1N=CC2=C(N1)N(C(=C2C(=O)NCC=2C(=NC(=CC2C)C)O)C)[C@H](C)C2=CC=CC=C2 | C24H26N6O2
